US04457931
(a) N-(2-Piperidinoethyl)-N'-(ethoxycarbonyl)piperazine
A mixture of 1-ethoxycarbonylpiperazine (10.9 grams; 0.069 moles), N-(2-chloroethyl)piperidine (10.2 grams; 0.069 moles) and potassium carbonate, (9.5 grams; 0.069 moles) in 100 cc of ethanol is heated to reflux for 4 hours. After cooling, the salt is filtered, the filtrate is evaporated and the oily residue is distilled under vacuo; b.p. 133°-136° C. (0.02 mm). Dihydrochloride: m.p. 254°-256° C. (from methanol); Rf=0.74 (MeOH-concentrated NH4OH 9.5:0.5); IR (neat); 2940, 2860, 2820, 1710, 1470, 1435, 1305, 1290, 1240, 1135, 1120, 1005, 770 cm-1.

reactant | 1-ethoxycarbonylpiperazine | 0.069 moles, 10.9 grams | C(C)OC(=O)N1CCNCC1 | C7H14N2O2
reactant | N-(2-chloroethyl)piperidine | 0.069 moles, 10.2 grams | ClCCN1CCCCC1 | C7H14ClN
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | ethanol | 100 cc | C(C)O | C2H6O
product | N-(2-Piperidinoethyl)-N'-(ethoxycarbonyl)piperazine | N1(CCCCC1)CCN1CCN(CC1)C(=O)OCC | C14H27N3O2
